US09340510B2
1-Benzyloxy-2-methoxy-3-(2-nitro-vinyl)-benzene
4.46 g (18.4 mmol) 3-Benzyloxy-2-methoxy-benzaldehyde (see CN 102451178), 2.96 mL (55.2 mmol) nitromethane and 1.42 g (18.4 mmol) ammonium acetate in 30 mL AcOH are stirred at 100° C. over night. The reaction mixture is cooled to r.t. and quenched by the addition of 20 mL MeOH and 6 mL water. After stirring at r.t. for 1 h, the precipitate is filtered off and dried at 40° C.

reactant | 3-Benzyloxy-2-methoxy-benzaldehyde | 18.4 mmol, 4.46 g | C(C1=CC=CC=C1)OC=1C(=C(C=O)C=CC1)OC | C15H14O3
reactant | nitromethane | 55.2 mmol, 2.96 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 18.4 mmol, 1.42 g | C(C)(=O)[O-].[NH4+]
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
product | 1-Benzyloxy-2-methoxy-3-(2-nitro-vinyl)-benzene | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)C=C[N+](=O)[O-])OC | C16H15NO4
